US06156884
Preparation of Methyl 2-Hydroxy-4-[({[3-hydroxy-4-(methoxycarbonyl)-phenyl]methyl}amino)methyl]benzoate Hydrochloride
Dissolved methyl 4-aminomethyl-2-hydroxybenzoate hydrochloride (13.07 g, 60.1 mmole) and diisopropylethylamine (28.0 mL, 292 mmole) in 225 mL of N,N-dimethylformamide by heating slightly until a solution was obtained. Allowed the solution to cool to room temperature and added methyl 4-bromomethyl-2-hydroxybenzoate (9.81 g, 40.0 mmole). The reaction was stirred for 1 day at room temperature. The solution was diluted with 200 mL of 1N HCl and 250 mL of ethyl acetate and allowed to cool to room temperature. Precipitate was collected by filtration, washed with ethyl acetate and dried in vacuo under a under high vacuum. Obtained 11.32 grams (74% yield) of product as a white solid.

reactant | methyl 4-aminomethyl-2-hydroxybenzoate hydrochloride | 60.1 mmole, 13.07 g | Cl.NCC1=CC(=C(C(=O)OC)C=C1)O
reactant | diisopropylethylamine | 292 mmole, 28.0 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methyl 4-bromomethyl-2-hydroxybenzoate | 40.0 mmole, 9.81 g | BrCC1=CC(=C(C(=O)OC)C=C1)O | C9H9BrO3
solvent | N,N-dimethylformamide | 225 mL | CN(C=O)C | C3H7NO
solvent | HCl | 1N, 200 mL | Cl | ClH
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | Methyl 2-Hydroxy-4-[({[3-hydroxy-4-(methoxycarbonyl)-phenyl]methyl}amino)methyl]benzoate Hydrochloride | 11.32 grams, 74% yield | Cl.OC1=C(C(=O)OC)C=CC(=C1)CNCC1=CC(=C(C=C1)C(=O)OC)O | InChI=1S/C18H19NO6.ClH/c1-24-17(22)13-5-3-11(7-15(13)20)9-19-10-12-4-6-14(16(21)8-12)18(23)25-2;/h3-8,19-21H,9-10H2,1-2H3;1H
